US08895577B2
To a stirred solution of ethyl 5-amino-8-methylbenzo[f][1,7]naphthyridine-2-carboxylate (from the previous step) in THF (0.2 M) cooled in an ice-water bath was added 1 N solution of super hydride in THF (10 eq.). Upon completion of the reaction the reaction was quenched with 1 N HCl, and extracted with EtOAc. Combined organic extracts were concentrated en vacuo to obtain a crude residue. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-80% ethyl acetate in hexane to give (5-amino-8-methylbenzo[f][1,7]naphthyridin-2-yl)methanol as a white solid. 1H NMR (CDCl3): δ 8.68 (d, 1H), 8.52 (d, 1H), 8.04 (d, 1H), 7.44 (s, 1H), 7.12 (dd, 1H), 6.00 (bs, 2H), 4.90 (s, 2H), 2.45 (s, 3H). LRMS [M+H]=240.1

reactant | ethyl 5-amino-8-methylbenzo[f][1,7]naphthyridine-2-carboxylate | NC1=NC2=C(C=3C=C(C=NC13)C(=O)OCC)C=CC(=C2)C | C16H15N3O2
reactant | super hydride | [Li+].[B-](CC)(CC)CC
solvent | THF | 0.2 M | C1CCOC1 | C4H8O
solvent | THF | 10 eq. | C1CCOC1 | C4H8O
product | (5-amino-8-methylbenzo[f][1,7]naphthyridin-2-yl)methanol | NC1=NC2=C(C=3C=C(C=NC13)CO)C=CC(=C2)C | C14H13N3O
